US04652574
3.4 g of 6-n-propylthio-2-pyridinol and 2.2 g of anhydrous sodium carbonate were suspended in 25 ml of N,N-dimethylformamide, followed by stirring. 2.4 g of methanesulfonyl chloride was added dropwise to the suspension at 10° C. After the addition, the bath was removed and the resulting mixture was allowed to stand to raise the temperature of the mixture to room temperature. The mixture was heated to 50° C. and stirred for 2.5 hours. The reaction mixture was poured into 200 ml of chilled water and extracted with ether twice. The ether layer was washed with 5% aqueous caustic soda solution and water and dried over anhydrous sodium sulfate. The residue obtained by distilling away the solvent was purified by silica gel column chromatography (with toluene and n-hexane) to obtain 3.9 g of 6-n-propylthio-2-pyridyl methanesulfonate as a pale yellow oil (yield: 78.8%).

reactant | 6-n-propylthio-2-pyridinol | 3.4 g | C(CC)SC1=CC=CC(=N1)O | C8H11NOS
reactant | sodium carbonate | 2.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanesulfonyl chloride | 2.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-n-propylthio-2-pyridyl methanesulfonate | 3.9 g, yield: 78.8% | CS(=O)(=O)OC1=NC(=CC=C1)SCCC | C9H13NO3S2
